US07229999B2
6-Cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-5-(4-trifluoromethoxy-phenyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-(trifluoromethoxy)-phenylboronic acid and (1R,2R)-2-amino-cyclohexanol hydrochloride as starting materials to yield 6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-5-(4-trifluoromethoxy-phenyl)-nicotinamide. MS (ISP) 451.1 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-(trifluoromethoxy)-phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | (1R,2R)-2-amino-cyclohexanol hydrochloride | Cl.N[C@H]1[C@@H](CCCC1)O
product | 6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-5-(4-trifluoromethoxy-phenyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)OC(F)(F)F | C23H25F3N2O4
